.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.param slew=10p
.param Cload=0.5f

.subckt project1_bufferckt vdd vss int in out
X0 vss in int vss sky130_fd_pr__nfet_01v8 ad=0.0798 pd=0.8 as=0.1596 ps=1.6 w=0.42 l=0.15
**devattr s=6384,320 d=3192,160
X1 vdd in int vdd sky130_fd_pr__pfet_01v8 ad=0.2337 pd=1.61 as=0.4674 ps=3.22 w=1.23 l=0.15
**devattr s=18696,644 d=9348,322
X2 out int vss vss sky130_fd_pr__nfet_01v8 ad=0.2394 pd=1.98 as=0.0798 ps=0.8 w=0.42 l=0.15
**devattr s=3192,160 d=9576,396
X3 out int vdd vdd sky130_fd_pr__pfet_01v8 ad=0.6396 pd=3.5 as=0.2337 ps=1.61 w=1.23 l=0.15
**devattr s=9348,322 d=25584,700
C0 in vdd 0.0671f
C1 out vdd 0.06999f
C2 out in 0.0041f
C3 int vdd 0.11573f
C4 in int 0.14349f
C5 out int 0.08094f
C6 out vss 0.37429f
C7 vdd vss 0.76028f
.ends

Vdd vdd 0 1.8

Xbuf vdd 0 int in out project1_bufferckt

Cload out 0 {Cload}

Vin in 0 PULSE(0 1.8 1n {slew} {slew} 2n 4n)

.control

alterparam slew=10p
alterparam Cload=0.5f
reset
tran 1p 8n
meas tran trise1 trig V(out) val=0.36 rise=1 targ V(out) val=1.44 rise=1
meas tran tfall1 trig V(out) val=1.44 fall=1 targ V(out) val=0.36 fall=1
echo "========================================"
echo "CASE 1: Slew=10ps, Cload=0.5fF"
print trise1 tfall1

alterparam slew=10p
alterparam Cload=10f
reset
tran 1p 8n
meas tran trise2 trig V(out) val=0.36 rise=1 targ V(out) val=1.44 rise=1
meas tran tfall2 trig V(out) val=1.44 fall=1 targ V(out) val=0.36 fall=1
echo "========================================"
echo "CASE 2: Slew=10ps, Cload=10fF"
print trise2 tfall2

alterparam slew=10p
alterparam Cload=100f
reset
tran 1p 8n
meas tran trise3 trig V(out) val=0.36 rise=1 targ V(out) val=1.44 rise=1
meas tran tfall3 trig V(out) val=1.44 fall=1 targ V(out) val=0.36 fall=1
echo "========================================"
echo "CASE 3: Slew=10ps, Cload=100fF"
print trise3 tfall3

alterparam slew=100p
alterparam Cload=0.5f
reset
tran 1p 8n
meas tran trise4 trig V(out) val=0.36 rise=1 targ V(out) val=1.44 rise=1
meas tran tfall4 trig V(out) val=1.44 fall=1 targ V(out) val=0.36 fall=1
echo "========================================"
echo "CASE 4: Slew=100ps, Cload=0.5fF"
print trise4 tfall4

alterparam slew=100p
alterparam Cload=10f
reset
tran 1p 8n
meas tran trise5 trig V(out) val=0.36 rise=1 targ V(out) val=1.44 rise=1
meas tran tfall5 trig V(out) val=1.44 fall=1 targ V(out) val=0.36 fall=1
echo "========================================"
echo "CASE 5: Slew=100ps, Cload=10fF"
print trise5 tfall5

alterparam slew=100p
alterparam Cload=100f
reset
tran 1p 8n
meas tran trise6 trig V(out) val=0.36 rise=1 targ V(out) val=1.44 rise=1
meas tran tfall6 trig V(out) val=1.44 fall=1 targ V(out) val=0.36 fall=1
echo "========================================"
echo "CASE 6: Slew=100ps, Cload=100fF"
print trise6 tfall6

alterparam slew=1000p
alterparam Cload=0.5f
reset
tran 1p 12n
meas tran trise7 trig V(out) val=0.36 rise=1 targ V(out) val=1.44 rise=1
meas tran tfall7 trig V(out) val=1.44 fall=1 targ V(out) val=0.36 fall=1
echo "========================================"
echo "CASE 7: Slew=1000ps, Cload=0.5fF"
print trise7 tfall7

alterparam slew=1000p
alterparam Cload=10f
reset
tran 1p 12n
meas tran trise8 trig V(out) val=0.36 rise=1 targ V(out) val=1.44 rise=1
meas tran tfall8 trig V(out) val=1.44 fall=1 targ V(out) val=0.36 fall=1
echo "========================================"
echo "CASE 8: Slew=1000ps, Cload=10fF"
print trise8 tfall8

alterparam slew=1000p
alterparam Cload=100f
reset
tran 1p 12n
meas tran trise9 trig V(out) val=0.36 rise=1 targ V(out) val=1.44 rise=1
meas tran tfall9 trig V(out) val=1.44 fall=1 targ V(out) val=0.36 fall=1
echo "========================================"
echo "CASE 9: Slew=1000ps, Cload=100fF"
print trise9 tfall9

echo "========================================"
echo "ALL 9 CASES COMPLETE"
echo "========================================"

.endc
.end