.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include pex.spice

VVDD VDD 0 1.8
VVSS VSS 0 0

VCLK CLK 0 PULSE(0 1.8 2n 0.1n 0.1n 5n 10n)
VDIN DIN 0 PULSE(0 1.8 1n 0.1n 0.1n 8n 16n)

XDUT DIN CLK Q VDD VSS d_ff

.tran 50p 100n

.control
run
plot v(Q)+8 v(DIN)+4 v(CLK)
.endc

.end