* Clock Input Capacitance

.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include dff_pex.spice

VVDD VDD 0 1.8
VVSS VSS 0 0

VD D 0 0

VCLK CLK 0 PULSE(1.8 0 1n 10p 10p 5n 20n)

XDUT D CLK Q VDD VSS d_ff

.tran 0.1p 10n

.measure tran q_clk INTEG i(VCLK) FROM=1n TO=1.05n
.measure tran C_clk PARAM='abs(q_clk)/1.8'
.control
run
print q_clk
print C_clk
plot i(VCLK)
.endc

.end