* D Input Capacitance

.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.include dff_pex.spice

.param VDD=1.8

VVDD VDD 0 {VDD}
VVSS VSS 0 0

* Hold CLK constant
VCLK CLK 0 0

* Drive D
VD D 0 PULSE(1.8 0 1n 10p 10p 5n 20n)

XDUT D CLK Q VDD VSS d_ff

.tran 0.1p 10n

.measure tran q_input INTEG i(VD) FROM=1n TO=1.05n
.measure tran C_input PARAM='abs(q_input)/1.8'
.control
run
print q_input
print C_input
plot i(VD)
.endc

.end