* Testbench for Positive Edge D Flip Flop - HOLD TIME

.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include dff_pex.spice

.param VDDVAL=1.8
.param clk_slew=10p
.param ip_slew=10p

* CHANGE THIS
.param th=-130p


* Power supplies
VVDD VDD 0 {VDDVAL}
VVSS VSS 0 0


* Clock
VCLK CLK 0 PULSE(0 {VDDVAL} 10n {clk_slew} {clk_slew} 5n 20n)


* D
* Starts HIGH
* Falls th after the rising clock edge
* Then remains LOW

VDIN DIN 0 PULSE({VDDVAL} 0 {10n+th} {ip_slew} {ip_slew} 20n 40n)


* DFF
XDUT DIN CLK Q VDD VSS d_ff


.tran 1p 30n


.control
run

plot V(Q) V(DIN)+4 V(CLK)+6

.endc

.end