

.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.include dff_pex.spice

.param DS=10p
.param CLKSLEW=10p
.param CL=10f

* VARIABLE TO SWEEP
.param TSETUP=130p

VDD vdd 0 1.8
VSS vss 0 0


VCLK CLK 0 PULSE(
+ 0 1.8
+ 5n
+ {CLKSLEW}
+ {CLKSLEW}
+ 5n
+ 10n
)


VDIN DIN 0 PULSE(
+ 0 1.8
+ {15n-TSETUP}
+ {DS}
+ {DS}
+ 20n
+ 40n
)


XDFF DIN CLK Q vdd vss d_ff

*--------------------------------------------------------
* LOAD
*--------------------------------------------------------

CLOAD Q 0 {CL}

*--------------------------------------------------------
* SIMULATION
*--------------------------------------------------------

.tran 1p 25n

.control

run

plot v(DIN) v(CLK) v(Q)

*--------------------------------------------------------
* 50% CROSSINGS
*--------------------------------------------------------

meas tran tD   WHEN v(DIN)=0.9 RISE=1
meas tran tCLK WHEN v(CLK)=0.9 RISE=2
meas tran tQ   WHEN v(Q)=0.9 RISE=1

*--------------------------------------------------------
* ACTUAL SETUP
*--------------------------------------------------------

let setup_actual = tCLK - tD

*--------------------------------------------------------
* CLK->Q
*--------------------------------------------------------

let tcq = tQ - tCLK

echo "========================="
print setup_actual
print tcq
echo "========================="

.endc

.end