.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.include dff_pex.spice

VVDD VDD 0 1.8
VVSS VSS 0 0

VD DIN 0 0
VCLK CLK 0 0

XDUT DIN CLK Q VDD VSS d_ff

.op

.measure op pstatic PARAM='abs(v(VDD)*i(VVDD))'
.control
run
print abs(v(VDD)*i(VVDD))
.endc
.end