* ==========================================================
* Dynamic power characterization  (pin A and pin B)
* Cell: out = NOT( (NOT A) AND B )   [NAND with inverted A input]
*   A toggles -> B held HIGH -> out follows A      (positive unate)
*   B toggles -> A held LOW  -> out = NOT B        (negative unate)
* Power = Energy per output transition / input period (T = 8 ns)
* Run with:  ngspice -b dp_nand.spice
* ==========================================================

.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include project1_nand_pex.spice

.param VDDV  = 1.8
.param SLEW  = 10p
.param CLOAD = 0.5f
* SELB = 0 -> A toggles, B held high | SELB = 1 -> B toggles, A held low
.param SELB  = 0

Vsup vdd 0 DC {VDDV}

* PULSE(V1 V2 TD TR TF PW PER)
VA A 0 PULSE(0 {VDDV*(1-SELB)} 1n {SLEW} {SLEW} 4n 8n)
VB B 0 PULSE({VDDV*(1-SELB)} {VDDV} 1n {SLEW} {SLEW} 4n 8n)

* Port order matches: .subckt project1_nand vdd A vss B out
XDUT vdd A 0 B out project1_nand

Cload out 0 {CLOAD}

* Input timeline (T = 8n):
*   W1: 1n        -> 5n + SLEW : toggling input RISES
*   W2: 5n + SLEW -> 9n        : toggling input FALLS
.tran 1p 9.5n

.control
set wr_singlescale
echo "PIN,SLEW_ps,LOAD_fF,P_RISE_nW,P_FALL_nW,VOUT_END_W1,VOUT_END_W2" > nand_power.csv

let T = 8e-9

foreach selb 0 1

    set pinname = A
    if $selb = 1
        set pinname = B
    end
    alterparam SELB = $selb

    foreach slew 10e-12 100e-12 1000e-12

        alterparam SLEW = $slew

        foreach load 0.5e-15 10e-15 100e-15

            alterparam CLOAD = $load
            reset
            run

            let pwr = -v(vdd)*i(vsup)

            let t_w1_0 = 1e-9
            let t_w1_1 = 5e-9 + $slew
            let t_w2_0 = 5e-9 + $slew
            let t_w2_1 = 9e-9

            meas tran E_W1 INTEG pwr FROM=$&t_w1_0 TO=$&t_w1_1
            meas tran E_W2 INTEG pwr FROM=$&t_w2_0 TO=$&t_w2_1

            * Sanity check: settled output level at the end of each window
            meas tran VO_W1 FIND v(out) AT=4.9e-9
            meas tran VO_W2 FIND v(out) AT=8.9e-9

            * Map windows to OUTPUT edges
            *   pin A (positive unate): input rise -> out rise
            *   pin B (negative unate): input rise -> out fall
            if $selb = 0
                let E_RISE_OUT = E_W1
                let E_FALL_OUT = E_W2
            else
                let E_RISE_OUT = E_W2
                let E_FALL_OUT = E_W1
            end

            let P_RISE_NW = E_RISE_OUT / T * 1e9
            let P_FALL_NW = E_FALL_OUT / T * 1e9

            let slew_ps = $slew * 1e12
            let load_fF = $load * 1e15

            echo "$pinname,$&slew_ps,$&load_fF,$&P_RISE_NW,$&P_FALL_NW,$&VO_W1,$&VO_W2" >> nand_power.csv
            echo "PIN=$pinname SLEW=$&slew_ps ps LOAD=$&load_fF fF  Prise=$&P_RISE_NW nW  Pfall=$&P_FALL_NW nW  Vout(W1,W2)=$&VO_W1,$&VO_W2"

        end
    end
end

quit
.endc

.end
